US04029787
4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-morpholidehydrochloride
183 Grams of 4-chloro-3-sulfamoylbenzoic acid-morpholide (0.6 mole) were stirred with 0.3 l of N-methylpiperazine for 3 hours at 130° C. Subsequently the excess base was eliminated in vacuo, the residue was dissolved in 0.5 l of water, and the pH of the solution was adjusted to 7 by means of 5N HCl. After having stood in the refrigerator for several days, the reaction product which had separated in a crystalline form was suction-filtered and was recrystallized from ethanol of 90% strength.

reactant | 4-chloro-3-sulfamoylbenzoic acid-morpholide | 0.6 mole | ClC1=C(C=C(C(=O)N2CCOCC2)C=C1)S(N)(=O)=O | C11H13ClN2O4S
reactant | N-methylpiperazine | 0.3 l | CN1CCNCC1 | C5H12N2
reactant | HCl | 5N | Cl | ClH
solvent | water | 0.5 l | O | H2O
product | 4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-morpholidehydrochloride | Cl.CN1CCN(CC1)C1=C(C=C(C(=O)N2CCOCC2)C=C1)S(N)(=O)=O | InChI=1S/C16H24N4O4S.ClH/c1-18-4-6-19(7-5-18)14-3-2-13(12-15(14)25(17,22)23)16(21)20-8-10-24-11-9-20;/h2-3,12H,4-11H2,1H3,(H2,17,22,23);1H
